US04560692
(b) 6-chloro-2-(4-methylphenyl)-4-quinolinecarbonyl chloride
A mixture of 28.4 g of 6-chloro-2-(4-methylphenyl)-4-quinolinecarboxylic acid, 100 ml of thionyl chloride, and 200 ml of toluene was stirred and heated under reflux for 1.5 hr. The reaction mixture was then concentrated in vacuo, the residue was treated with more toluene, and the mixture again concentrated in vacuo. The residue was recrystallized from 300 ml of heptane to give 17.7 g of the above-named compound as a yellow solid.

reactant | 6-chloro-2-(4-methylphenyl)-4-quinolinecarboxylic acid | 28.4 g | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)C)C(=O)O | C17H12ClNO2
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2-(4-methylphenyl)-4-quinolinecarbonyl chloride | 17.7 g | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=C(C=C1)C)C(=O)Cl | C17H11Cl2NO
